US04108885
N-(3-Dimethylammoniopropyl)-carbamic acid butyl ester chloride
4.6 g (0.2 g-atom) of sodium are dissolved in 200 ml of n-butanol. To this add 21.0 g (0.1 mole) of N-(3-dimethylammoniopropyl)-carbamic acid ethyl ester chloride and boil the mixture for 6 hours with reflux. Concentrate, admix with water, ether out, dry the ether phase over MgSO4, introduce dry HCl gas while stirring and cooling, decant the ether solution, and drag the remaining oil in vacuum. One obtains 13.1 g of nD20 = 1.4735.

reactant | sodium | 4.6 g | [Na] | Na
reactant | N-(3-dimethylammoniopropyl)-carbamic acid ethyl ester chloride | 0.1 mole, 21.0 g | [Cl-].C(C)OC(NCCC[NH+](C)C)=O
reactant | n-butanol | 200 ml | C(CCC)O | C4H10O
product | N-(3-Dimethylammoniopropyl)-carbamic acid butyl ester chloride | [Cl-].C(CCC)OC(NCCC[NH+](C)C)=O | InChI=1S/C10H22N2O2.ClH/c1-4-5-9-14-10(13)11-7-6-8-12(2)3;/h4-9H2,1-3H3,(H,11,13);1H
